US06093718
1-(2-Ethylpyrimidin-4yl)-4-methyl-piperidine-4-carboxylic acid was prepared on a 3 mmol 4-methyl-4-ethoxycarbonyl-piperidine (as TFA salt) in 7 ml ethanol and 1 ml Et3N treated with a solution of 0.531 g 2-ethyl-4,6-dichloropyrimidine in 4 ml ethanol. After 20 hours at ambient temp. The ethanol was removed and the residue partitioned between water and ethanol, washed with sodium hydrogen carbonate solution and brine. Evaporated to give gum (88.3%).

reactant | 4-methyl-4-ethoxycarbonyl-piperidine | 3 mmol | CC1(CCNCC1)C(=O)OCC | C9H17NO2
reactant | 2-ethyl-4,6-dichloropyrimidine | 0.531 g | C(C)C1=NC(=CC(=N1)Cl)Cl | C6H6Cl2N2
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | Et3N | 1 ml | CCN(CC)CC | C6H15N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(2-Ethylpyrimidin-4yl)-4-methyl-piperidine-4-carboxylic acid | C(C)C1=NC=CC(=N1)N1CCC(CC1)(C(=O)O)C | C13H19N3O2
